US09163008B2
In a 300 mL round bottom flask, 5.28 g (22.96 mmol) 4-(benzo[d][1,3]dioxol-5-yloxy)aniline was dissolved in 40 mL DME and cooled to 0° C. in a brine/ice bath. Using a dropping funnel, 10 equivalents aqueous H2SO4 (10N aqueous) were slowly added to the DME solution, immediately creating a salt suspension. The suspension was stirred at 0° C. for 10 minutes. Then, a solution of 1.5 equivalents sodium nitrite (2.38 g, 34.45 mmol) in 20 mL water was dropped slowly into the suspension while keeping the temperature below 5° C. After adding the sodium nitrite, the mixture was stirred at 0° C. for 30 minutes. Then, a 30 mL aqueous solution of sodium iodide (10.32 g, 68.88 mmol) was dropped slowly into the mixture. LC/MS showed the reaction was complete. The mixture was diluted with 400 mL EtOAc and washed with 700 mL water and then 700 mL 1M sodium bisulfite. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was then chromatographed by combiflash using a 330 gram silica column and a gradient of EtOAc (15% max) in hexane to provide 6 g of 5-(4-iodophenoxy)benzo[d][1,3]dioxole (77%, light brown oil). m/z 340, 1H NMR (CHCl3): 7.61-7.54 (m, 2H), 6.79-6.68 (m, 3H), 6.58-6.53 (m, 1H), 6.51-6.45 (m, 1H), 6.00-5.96 (s, 2H).

reactant | 4-(benzo[d][1,3]dioxol-5-yloxy)aniline | 22.96 mmol, 5.28 g | O1COC2=C1C=CC(=C2)OC2=CC=C(N)C=C2 | C13H11NO3
reactant | H2SO4 | 10N, 10 equivalents | OS(=O)(=O)O | H2O4S
reactant | sodium nitrite | 34.45 mmol, 2.38 g, 1.5 equivalents | N(=O)[O-].[Na+]
reactant | sodium iodide | 68.88 mmol, 10.32 g | [I-].[Na+]
solvent | DME | 40 mL | COCCOC | C4H10O2
solvent | water | 20 mL | O | H2O
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | 5-(4-iodophenoxy)benzo[d][1,3]dioxole | 6 g, 77% | IC1=CC=C(OC2=CC3=C(OCO3)C=C2)C=C1 | C13H9IO3
